Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Squamous cell carcinoma of the cervix
 
Major Surgical or Invasive Procedure:
Placement and removal of interstitial implant

 
History of Present Illness:
___ female who had a routine Pap smear on ___, 
showing atypical squamous cells of undetermined significance 
(ASCUS).  A urinalysis that day also showed a ___ bright red 
blood cells and 2+ blood.  Repeat urinalysis on ___, 
showed ___ red blood cells, but no blood. Pap smear with Dr. 
___ at ___ OB/GYN on ___ showed 
high-grade squamous intraepithelial lesion (HGSIL).  Urinalysis 
showed no  blood and ___ red blood cells.  The patient did not 
want any further workup for the microscopic hematuria at that 
point, and preferred close observation.  On ___, 
colposcopy by Dr. ___ an erythematous lesion from 9 
to 12 o'clock and 4 to 6 o'clock of the cervix, the entire 
portio showed grade 3 mosaic, and the vulva had acetowhite 
patches.  Biopsies at 2, 5 and 11 o'clock on the cervix showed 
HGSIL.  On ___, repeat colposcopy  and LEEP of the 
cervix showed tiny gray acetowhite patches at the base of the 
hair follicles and the vulva. The vulvar abnormalities were not 
concerning, and it was decided to continue to closely observe 
the vulva. LEEP of the cervix showed poorly differentiated 
invasive squamous cell carcinoma extending to the cauterized 
margin, positive for LVI, extending at least 0.7 cm into the 
cervical stroma, with positive margins.  The patient was 
diagnosed with a FIGO-1B1 squamous cell carcinoma of the cervix 
and on ___, Dr. ___ performed a radical 
hysterectomy, bilateral salpingo-oophorectomy, pelvic 
lymphadenectomy and examination under anesthesia during which he 
noted no involvement of the parametria, vagina or cul-de-sac. 
Pathology showed a 0.7 cm grade 1 squamous cell carcinoma 
invading to a depth of 3 mm with negative margins and no 
lymphovascular invasion.  One left  obturator, two Left iliac, 
one right iliac and four right obturator lymph nodes were all 
negative.
.
Pap smear by Dr. ___ on ___, showed ASCUS.  The 
patient tried Premarin vaginal cream, and vaginal biopsy on 
___ was negative for malignancy.  Pap smears on 
___, on ___ and on ___ showed 
ASCUS.  Colposcopy and Pap smear by Dr. ___ on 
___ showed low-grade squamous intraepithelial 
lesion.  Colposcopy by Dr. ___ on ___, showed 
moderate acetowhite epithelium with possible punctations at the 
vaginal apex, especially on the left.  A biopsy and pap smear 
showed at least HGSIL/VaIN3.  Examination under anesthesia and 
colposcopy on ___, which was limited by bleeding from 
the vaginal cuff, showed no changes from the, office exam.  
Biopsies at 1 o'clock and 11 o'clock of the vaginal cuff showed 
a HGSIL, and biopsies at 5 o'clock and 12 o'clock were negative. 
 On ___, the patient had carbon dioxide laser ablation 
of the upper 2-3 cm of the vagina to a depth of 1-2 mm.  On 
___, gynecologic examination and colposcopy 
revealed a white plaque at the vaginal apex that peeled-off 
easily upon insertion of the speculum.  Pap smear and pathology 
of the plaque showed HGSIL.  The patient tried weekly Efudex for 
6 weeks and on ___, physical exam showed no 
abnormalities and Pap smear was negative.  Pap smears on 
___ ___ and 
___ were all negative for disease.  Of note, on 
___ and ___, Pap smears provided 
insufficient material for evaluation.  During this period of 
time, the patient was diagnosed with DCIS and LCIS of the left 
breast, status post breast-conserving surgery and adjuvant 
radiation ending ___ ___ at ___ 
___.  During the CT scan for her left breast 
radiation, a right upper lobe mass suspicious for malignancy was 
visualized and a CT-guided lung biopsy in ___ showed 
adenosquamous lung cancer.  The patient had resection of the 
right upper lobe and superior segment of the right lower lobe, 
showing a pT2b, N0, M0, stage IIA lung cancer, with adjuvant 
cisplatin and Navelbine for four cycles until ___.  She 
started tamoxifen in ___.
.
In ___, the patient again had an episode of hematuria 
and CT urogram and chest CT on ___ showed a 5-mm 
soft tissue mass at the dome of the bladder, and a 3.4 cm cystic 
lesion in the uncinate process of the pancreas.  Cystoscopy on 
___, showed no masses or mucosal lesions. There 
was minimal submucosal impression at the dome without mucosal 
change, thought to be possibly a hemorrhagic cystic submucosal 
structure or urachal cystic mass. On ___, 
endoscopic ultrasound and FNA of the pancreatic cyst was 
nondiagnostic. As her CEA was not elevated, it was thought that 
this was likely nonmalignant, but an MRI was recommended to 
further evaluate the lesion. 
.
She saw Dr. ___ in followup on ___, who 
visualized a fungating mass at the vaginal apex and a firm 
shelf-like mass at the apex of the vaginal canal.  Rectal 
examination confirmed the paravaginal extension, but no tumor at 
the urethral meatus or distal vagina.  Biopsy that day 
demonstrated superficial fragments of squamous mucosa with at 
least high-grade squamous intraepithelial lesion concerning for 
invasion. Pelvic MRI on ___, at ___ showed a 3.0 x 
4.6 x 4.2 cm heterogeneously enhancing soft tissue mass at the 
superior aspect of the vaginal cuff extending anteriorly to 
invade the bladder wall and extending posteriorly to infiltrate 
the rectovaginal plane, without macroscopic invasion of the 
rectal wall itself.  The inferior margin of the mass was 
approximately 4 cm above the introitus with additional enhancing 
nodularity along the posterior wall of the vagina extending 
inferiorly for another 1.5 cm, potentially representing 
additional superficial disease.  There was also bilateral 
enlarged pelvic lymphadenopathy.  PET-CT on ___ showed
an avid soft tissue density at the vaginal cuff extending 
inferiorly into the vaginal. There was no clear vesicovaginal 
fat plane, which was concerning for bladder involvement, and 
haziness of the rectovaginal fat with some uptake concerning for 
local spread.  There was bilateral FDG-avid pelvic sidewall and 
right common iliac lymphadenopathy, but no evidence of distant 
metastatic disease.
.
Currently, is undergoing external beam radiation to the pelvic 
lymph nodes with concurrent chemotherapy. She has the expected 
side effects, including moderate fatigue, diarrhea controlled 
with a low-residue diet, metamucil, and imodium, and severe 
erythema of the vulva, ___ and perineal tissue within the 
radiation portal, for which she is using aquaphor and A&D 
ointments. She has lost 8 lbs over the last 2 weeks and has 
severely decreased appetite.
 
Past Medical History:
1. Recurrent cervical cancer, as above.
2. Grade 1 DCIS and LCIS of the left breast, status post 
excision on ___, followed by reexcision ___, and adjuvant radiation ending ___ ___ at ___. She is currently on 
Tamoxifen.
3.  PT2b, N0, M0, stage IIA, adenosquamous carcinoma of the 
right lung status post resection of the right upper lobe and 
superior segment of the right lower lobe, and adjuvant 
chemotherapy with cisplatin and Navelbine until ___.
4. Dysthymic disorder.
5. Osteopenia.
6.  Benign colon polyps.
7.  CKD 2 stage II.
.
OB-GYN HISTORY:  G1 P0 with one spontaneous abortion.  Menarche 
at age ___, menopause at 45.  Hormone replacement therapy for 
___ years from age ___.  Oral contraceptives for ___ years in 
the distant past. She is currently sexually active with a 
partner.
 
Social History:
___
Family History:
Father who is a smoker, had bladder cancer.
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, nontender, nondistended
___: nontender, nonedematous
 
Pertinent Results:
ADMISSION LABS:
___ 07:30AM BLOOD WBC-3.4*# RBC-2.74* Hgb-8.4* Hct-25.2* 
MCV-92 MCH-30.5 MCHC-33.2 RDW-16.8* Plt ___
___ 07:30AM BLOOD Neuts-76.8* Lymphs-9.8* Monos-12.1* 
Eos-0.8 Baso-0.5
___ 07:30AM BLOOD Glucose-76 UreaN-15 Creat-1.0 Na-137 
K-4.4 Cl-103 HCO3-24 AnGap-14
___ 07:30AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.4*

DISCHARGE LABS:
___ 08:12AM BLOOD WBC-3.7* RBC-3.05* Hgb-9.2* Hct-27.2* 
MCV-89 MCH-30.2 MCHC-34.0 RDW-16.8* Plt ___
___ 08:12AM BLOOD Neuts-78.9* Lymphs-8.7* Monos-11.1* 
Eos-1.2 Baso-0.1
___ 08:12AM BLOOD Glucose-108* UreaN-7 Creat-0.8 Na-140 
K-3.4 Cl-103 HCO3-25 AnGap-15
___ 08:12AM BLOOD Calcium-8.9 Phos-2.7 Mg-1.4*
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
for  vaginal brachytherapy. She underwent placement of an 
interstitial implant on ___. Please see operative report  
for full details.
.
She received treatments from ___ until ___ for  a total 
of 7 sessions. She was maintained on bedrest, a clear  diet, and 
loperamide throughout this time. Her pain was  controlled with a 
dilaudid PCA and oral acetaminophen. 
.
She was seen by Social Work during her admission. 
.
After removal of the implant on hospital day 5, her diet was  
advanced without difficulty. Her Foley catheter was removed and  
she voided spontaneously. She was transitioned to oral  
acetaminophen for her pain. 
.
By hospital day 6, she was tolerating a regular diet, voiding  
spontaneously, ambulating independently, and she was no longer 
requiring pain medications. She was then discharged home in 
stable  condition with outpatient follow-up scheduled.
 
Medications on Admission:
1.  Citalopram 10 mg daily.
2.  Tamoxifen.
3.  Vitamin B.
4.  Calcium D plus vitamin K plus vitamin D.
5.  Vitamin D3.
6. Multivitamin.
 
Discharge Medications:
No changes to home medications above.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cervical cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service for 
brachytherapy. You have recovered well after your treatment, and 
the team feels that you are safe to be discharged home. 
.
* You may notice some vaginal discharge, which is normal. You 
will be instructed to douche with warm water twice a day until 
your follow-up visit.
* After your implant has been removed, it is normal to 
experience mild pelvic discomfort, and some irritation of your 
vagina. You may also experience some discomfort when you urinate 
or move your bowels. Please be sure to discuss any changes in 
your urinary or bowel patterns with your doctor. 
* Your activities depend on how you feel. It is important to 
balance your activities at ___ with frequent rest periods, 
particularly during the first week. 
* Eating a balanced diet and drinking an adequate amount of 
fluids will help you to heal and regain your strength. 

Please follow these instructions: 
. 
* Tap water douches ___ times per day (morning and evening). 
* You may eat a regular diet.
* Clean your skin after you urinate or move your bowels (use 
___ bottle).
* Refrain from sexual intercourse until your follow-up visit.
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___